US08487094B2
To a solution of acetophenone (30 g, 0.25 mol) in dry THF (250 mL) at −78° C. was added dropwise 1M allylmagnesium bromide (1.25 L, 1.25 mol). After addition was complete, the mixture was allowed to stir at rt for 3 h. The reaction was quenched with satd aq NH4Cl solution (30 mL). The mixture was extracted with EtOAc (200 mL). The organic layer was washed with brine (30 mL), dried over anhydrous Na2SO4 and concentrated to give 2-phenylpent-4-en-2-ol (40.2 g), which was used for the next step without purification.

reactant | acetophenone | 0.25 mol, 30 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | allylmagnesium bromide | 1.25 mol, 1M, 1.25 L | C(C=C)[Mg]Br
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 2-phenylpent-4-en-2-ol | 40.2 g | C1(=CC=CC=C1)C(C)(CC=C)O | C11H14O
